US06242422B1
N-((2-Carbo-tert-Butoxy-1-Naphthyloxy)Acetyl)Valine Methyl Ester
To a solution of (2-carbo-tert-butoxy-1-naphthyloxy)acetic acid (1.20 g, 3.97 mmol, see Example 165, Part A) and valine methyl ester hydrochloride (0.932 g, 5.56 mmol) in N-methylpyrrolidone(7.5 mL)-CH2Cl2(7.5 mL) at room temperature under nitrogen was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophate (2.11 g, 5.56 mmol) and diisopropylethylamine (2.42 mL, 13.9 mmol). After stirring at room temperature for 3.5 hrs, the mixture was partitioned between EtOAc-water. The organic phase was washed with water, 5% KHSO4, saturated NaHCO3 and saturated NaCl solutions, dried over anhydrous Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography on silica gel eluting with EtOAc-hexane (1:9 to 3:7) to give the title compound (1.40 g, 85%) as a colorless oil. TLC(EtOAc-hexane; 1:1) Rf=0.76.

reactant | (2-carbo-tert-butoxy-1-naphthyloxy)acetic acid | C(=O)(OC(C)(C)C)C1=C(C2=CC=CC=C2C=C1)OCC(=O)O | C17H18O5
reactant | valine methyl ester hydrochloride | 5.56 mmol, 0.932 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 13.9 mmol, 2.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 7.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
product | N-((2-Carbo-tert-Butoxy-1-Naphthyloxy)Acetyl)Valine Methyl Ester | 1.40 g, 85% | COC([C@@H](NC(COC1=C(C=CC2=CC=CC=C12)C(=O)OC(C)(C)C)=O)C(C)C)=O | C23H29NO6
